US04405552
EXAMPLE 11: 2-AMINO-5-(4-CHLOROPHENYL)-3-PYRIDINECARBONITRILE
Sodium methoxide (16.2 grams) in 300 ml methanol and malononitrile (19.8 grams) in 50-100 ml methanol were added to N-[2-(4-chlorophenyl)-3-(dimethylamino)-2-propenylidene]-N-methylmethanaminium perchlorate (101.1 grams) in 300 ml pyridine at 0° C. in an ice-alcohol bath. The reaction mixture was stirred at room temperature for about 20 hours and then recooled to 0° C. Ammonium hydroxide (120 ml) was added and after three hours, a copious precipitate formed. The solid was filtered, washed with water, and shown by NMR to be the desired product, yield 44 grams, m.p. 202°-204° C. Addition of 600-800 ml of water to the filtrate gave additional product although impurities were present.

reactant | Sodium methoxide | 16.2 grams | C[O-].[Na+]
reactant | malononitrile | 19.8 grams | C(CC#N)#N | C3H2N2
reactant | N-[2-(4-chlorophenyl)-3-(dimethylamino)-2-propenylidene]-N-methylmethanaminium perchlorate | 101.1 grams | Cl(=O)(=O)(=O)[O-].ClC1=CC=C(C=C1)C(C=[N+](C)C)=CN(C)C
reactant | Ammonium hydroxide | 120 ml | [OH-].[NH4+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 50-100 ml | CO | CH4O
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 2-AMINO-5-(4-CHLOROPHENYL)-3-PYRIDINECARBONITRILE | NC1=NC=C(C=C1C#N)C1=CC=C(C=C1)Cl | C12H8ClN3
